US07795247B2
Step 6: 14-cyclohexyl-6-[2-(dimethylamino)ethyl]-7-oxo-5,6,7,8-tetrahydroindolo[2,1-a][2.5]benzodiazocine-11-carboxylic acid
To a solution of methyl 14-cyclohexyl-6-[2-(dimethylamino)ethyl]-7-oxo-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-11-carboxylate in DCM (0.02 M) was added dropwise a solution of BBr3 in DCM (1 M). The solution was stirred at RT for 30 min. Volatiles were removed in vacuo. The crude was then purified by automated RP-MS-HPLC (stationary phase: column Waters XTERRA prep. C18, 5 um, 19×100 mm. Mobile phase: MeCN/H2O buffered with 0.1% TFA). Fractions containing the pure compound were combined and freeze dried to afford the title compound as a white powder (20%).

reactant | methyl 14-cyclohexyl-6-[2-(dimethylamino)ethyl]-7-oxo-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-11-carboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(CN(C(C2)=O)CCN(C)C)C=CC=C1)C(=O)OC | C29H35N3O3
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | DCM | 0.02 M | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 M | C(Cl)Cl | CH2Cl2
product | 14-cyclohexyl-6-[2-(dimethylamino)ethyl]-7-oxo-5,6,7,8-tetrahydroindolo[2,1-a][2.5]benzodiazocine-11-carboxylic acid | 20% | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(CN(C(C2)=O)CCN(C)C)C=CC=C1)C(=O)O | C28H33N3O3
